US07125896B2
b) 5-Bromo-2-(4-ethanesulfonylpiperazin-1-yl)pyridine
2,5-Dibromopyridine (1 g) was heated in dimethylacetamide (2.5 ml) with ethanesulfonylpiperazine (0.752 g) and diisopropylethylamine (1.84 ml) at 120° C. for 18 h. After cooling, the reaction mixture was poured into water (30 ml) and the precipitated solid was collected by filtration. The product was purified by column chromatography eluting with dichloromethane (0.50 g).

reactant | 2,5-Dibromopyridine | 1 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | ethanesulfonylpiperazine | 0.752 g | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
reactant | diisopropylethylamine | 1.84 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 30 ml | O | H2O
solvent | dimethylacetamide | 2.5 ml | CC(=O)N(C)C | C4H9NO
product | 5-Bromo-2-(4-ethanesulfonylpiperazin-1-yl)pyridine | BrC=1C=CC(=NC1)N1CCN(CC1)S(=O)(=O)CC | C11H16BrN3O2S
